US04751305
A. 8-(2-Quinolinyl)-1,4-dioxa-8-azaspiro[4.5]decane
A mixture of 10 g (0.0613) of 2-chloroquinoline, 27 g (0.1886 mol) of 1,4-dioxa-8-azaspiro[4.5]decane, 13 g (0.0941) of K2CO3, and 75 ml of dimethylformamide is stirred at 100°-110° C. for 4 days. The reaction mixture is allowed to cool to ambient temperature, diluted with water and extracted with ethyl acetate. The combined organic extracts are washed copiously with water, then brine, dried over Na2SO4, and concentrated in vacuo to give a waxy solid. Trituration with ether furnishes 3.6 g (22%) of title compound: IR (KBr) 1620, 1610 and 1510 cm-1 ; NMR (CDCl3) δ7.92 (d, 1H), 7.78-7.50 (m, 3H), 7.30-7.22 (m, 1H), 7.04 (d, 1H), 4.02 (s, 4H), 3.94-3.86 (m, 4H), and 1.88-1.76 (m, 4H).

reactant | 2-chloroquinoline | 10 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 0.1886 mol, 27 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | K2CO3 | 13 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 8-(2-Quinolinyl)-1,4-dioxa-8-azaspiro[4.5]decane | 3.6 g, 22% | N1=C(C=CC2=CC=CC=C12)N1CCC2(OCCO2)CC1 | C16H18N2O2
